US05512563
2-Iodo-N-(2-iodophenyl)benzeneethanamine
To a suspension of 1.39 g (3 mmol) of 2-iodo-N-(2-iodophenyl)benzeneacetamide in 30 ml of tetrahydrofuran-dichloromethane (1:1) is added 3.75 ml of 2.0 molar borane-dimethylsulfide in tetrahydrofuran. The solution is stirred 1 hr at room temperature and then refluxed for 16 hours. The mixture is cooled and water slowly added dropwise until gas evolution ceases. The volatiles are removed under vacuum and the aqueous residue made alkaline with 2N sodium hydroxide. The mixture is extracted with ether (50 ml) and the extract is washed with brine and dried (Na2SO4). The solution is filtered through a thin pad hydrous magnesium silicate and the filter pad is washed with ether and the filtrate evaporated. The residual solid is washed with isooctane to give 1.20 g of white solid. Recrystallization from diethylether/hexane gives white crystals.

reactant | 2-iodo-N-(2-iodophenyl)benzeneacetamide | 3 mmol, 1.39 g | IC1=C(C=CC=C1)CC(=O)NC1=C(C=CC=C1)I | C14H11I2NO
reactant | borane dimethylsulfide | 2.0 molar, 3.75 ml | B.CSC
reactant | water | O | H2O
solvent | tetrahydrofuran dichloromethane | 30 ml | O1CCCC1.ClCCl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Iodo-N-(2-iodophenyl)benzeneethanamine | 1.20 g | IC1=C(C=CC=C1)CCNC1=C(C=CC=C1)I | C14H13I2N
